US04495202
A. Preparation of 4-methoxy-α-[(4-methoxyphenyl)methylene]-N,N-dimethylbenzenemethanamine.
A solution of 307.56 g. of desoxyanisoin in three liters of diethyl ether was cooled to about 0° C. by means of an external ice/alcohol bath. Under a nitrogen atmosphere, 441 ml. of dimethylamine were added to the solution with stirring. A solution of 79 ml. of titanium tetrachloride in 500 ml. of toluene was then added to the reaction mixture over a 90 minute period at such a rate to keep the temperature below 5° C. The reaction was then allowed to stir overnight at room temperature. The reaction was filtered and the precipitate was washed with two liters of diethyl ether. The ether filtrate and wash were combined and evaporated in vacuo. The residue was crystallized from ether/Skelly B to provide 272.2 g. of the desired title intermediate, m.p. about 67°-69° C.

reactant | desoxyanisoin | C1(=CC=C(OC)C=C1)C(=O)CC1=CC=C(OC)C=C1 | C16H16O3
reactant | dimethylamine | CNC | C2H7N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | three liters | C(C)OCC | C4H10O
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 4-methoxy-α-[(4-methoxyphenyl)methylene]-N,N-dimethylbenzenemethanamine | COC1=CC=C(C=C1)C(N(C)C)=CC1=CC=C(C=C1)OC | C18H21NO2
